US06479487B1
1-(3-Benzyloxypropyl)-4-piperidone oxime is prepared from 1-(3-benzyloxypropyl)-4-piperidone and hydroxylamine hydrochloride essentially as described above in Example 38, Scheme C, step b.

reactant | 1-(3-benzyloxypropyl)-4-piperidone | C(C1=CC=CC=C1)OCCCN1CCC(CC1)=O | C15H21NO2
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-(3-Benzyloxypropyl)-4-piperidone oxime | C(C1=CC=CC=C1)OCCCN1CCC(CC1)=NO | C15H22N2O2
